US06335360B1
1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-indoline-2(S)-carboxylic acid-(2-methylthioethyl)amide
To a solution of 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)-indoline-2(S)-carboxylic acid methyl ester (0.5 g, 1.4 mmol) in methanol (2 ml), was added 2-methylthioethylamine (3 ml) under nitrogen, and the resulting solution was stirred at 60° C. for 48 hours. The solution was poured into dichloromethane (20 ml), and washed with 1M potassium hydrogen sulphate, the aqueous layer was extracted with dichloromethane (3×15 ml). The combined organic layers were dried over Na2SO4, and then the solvent was evaporated. A white solid was obtained after column chromatography on silica gel using diethyl ether as eluent.

reactant | 1-(N-t-butoxycarbonyl-2(S)-aminobutyryl)-indoline-2(S)-carboxylic acid methyl ester | 1.4 mmol, 0.5 g | COC(=O)[C@H]1N(C2=CC=CC=C2C1)C([C@H](CC)NC(=O)OC(C)(C)C)=O | C19H26N2O5
reactant | 2-methylthioethylamine | 3 ml | CSCCN | C3H9NS
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | methanol | 2 ml | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-indoline-2(S)-carboxylic acid-(2-methylthioethyl)amide | CSCCNC(=O)[C@H]1N(C2=CC=CC=C2C1)C([C@H](CC)NC(=O)OC(C)(C)C)=O | C21H31N3O4S
